US07138397B2
Using trans-4-(benzyloxycarbonylamino)-1-cyclohexanecarboxamidine hydrochloride (a compound of Reference Example 8-35 (5)) (348 mg) as a starting material, by reacting the same with acetylacetone according to the method of Libman et al. (J. Chem. Soc., p. 2305, 1952), trans-1-benzyloxycarbonylamino-4-(4,6-dimethylpyrimidin-2-yl)cyclohexane (220 mg) was obtained. By treating this compound (205 mg) with trimethylsilyl iodide in the same manner as in Reference Example 8-35 (7), trans-4-(4,6-dimethylpyrimidin-2-yl)cyclohexylamine (Reference Example 8-36 in Table 9) (129 mg) was obtained.

reactant | trans-4-(benzyloxycarbonylamino)-1-cyclohexanecarboxamidine hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=N)N
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | trans-1-benzyloxycarbonylamino-4-(4,6-dimethylpyrimidin-2-yl)cyclohexane | 220 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C1=NC(=CC(=N1)C)C | C20H25N3O2
